US08710043B2
Step 4. 6-(Benzyloxy)-5-nitropicolinic Acid
To a cooled (0° C.) stirred mixture of 6-(benzyloxy)-5-nitropicolinaldehyde (0.5 g, 0.0019 mol) in acetone:water (1:1, 5 mL), was added sulphamic acid (280 mg, 0.00029 mol, Aldrich) and NaClO2 (260 mg, 0.00029 mol, Aldrich). The reaction mixture was stirred for 2 h at the same temperature. After completion of the reaction (monitored by TLC, 10% EtOAc in hexane), the reaction mixture was quenched with water (2 mL) and extracted with EtOAc (20 mL×3). The organic layers were combined, dried over anhydrous sodium sulfate, and purified by column chromatography, silica gel (60-120 mesh) using 5-9% EtOAc in petroleum ether as an eluent to give the title compound. 1H NMR (400 MHz, CDCl3) δ: 13.80 (br. s., 1H), 8.45 (d, J=8.1 Hz, 1H), 7.96 (d, J=8.1 Hz, 1H), 7.51 (d, J=7.2 Hz, 2H), 7.44-7.36 (m, 3H), 5.62 (s, 2H).

reactant | 6-(benzyloxy)-5-nitropicolinaldehyde | 0.0019 mol, 0.5 g | C(C1=CC=CC=C1)OC1=C(C=CC(=N1)C=O)[N+](=O)[O-] | C13H10N2O4
reactant | sulphamic acid | 0.00029 mol, 280 mg | S(N)(O)(=O)=O | H3NO3S
reactant | NaClO2 | 0.00029 mol, 260 mg | [O-]Cl=O.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetone water | 5 mL | CC(=O)C.O
solvent | hexane | CCCCCC | C6H14
product | 6-(Benzyloxy)-5-nitropicolinic Acid | C(C1=CC=CC=C1)OC1=C(C=CC(=N1)C(=O)O)[N+](=O)[O-] | C13H10N2O5
